US07560569B2
In a similar manner to Example 63, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 4-aminodiphenylmethane (62.0 mg) were used to obtain (2S,4S)-4-fluoro-1-[[N-[4-[N-(4-phenylmethylphenyl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile (31.1 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 4-aminodiphenylmethane | 62.0 mg | C1=CC=C(C=C1)CC2=CC=C(C=C2)N | C13H13N
product | (2S,4S)-4-fluoro-1-[[N-[4-[N-(4-phenylmethylphenyl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile | 31.1 mg | F[C@H]1C[C@H](N(C1)C(CNC12CCC(CC1)(CC2)C(=O)NC2=CC=C(C=C2)CC2=CC=CC=C2)=O)C#N | C29H33FN4O2
